US08252820B2
A. 5-(4-Benzyl-2-benzyloxy-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt
To a microwave vial is added 90 mg (0.199 mmole) of 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (intermediate from 1) and 60 mg of polystyrene-tetrakis(triphenylphosphine)palladium(0) (0.1 mmol/g) followed by 4.5 mL DME. To this is added 84 mg (0.396 mmole) of benzyl-9-BBN (0.78 mL of a 1.0 M solution in THF) followed by 84 mg (0.79 mmol) of sodium carbonate (0.39 mL of a 2.0 M aqueous solution). The mixture is heated in a microwave apparatus at 100° C. for 10 min. The resin is filtered and the solvent is removed under reduced pressure. Water is added to the residue and the solution is washed with MTBE. The aqueous phase is used directly in the next step.

reactant | 5-(2-benzyloxy-4-bromo-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 0.199 mmole, 90 mg | [K].C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)Br)F)N1CC(NS1(=O)=O)=O
reactant | DME | 4.5 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 0.79 mmol, 84 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | C1CCOC1 | C4H8O
product | 5-(4-Benzyl-2-benzyloxy-6-fluorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | [K].C(C1=CC=CC=C1)C1=CC(=C(C(=C1)F)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | InChI=1S/C22H19FN2O4S.K/c23-19-12-18(11-16-7-3-1-4-8-16)13-20(29-15-17-9-5-2-6-10-17)22(19)25-14-21(26)24-30(25,27)28;/h1-10,12-13H,11,14-15H2,(H,24,26);
